US04268511
Preparation of 3-diacetylamino(1H,3H)quinazoline-2,4-dione
4 g 3-N-acetylamino(1H,3H)quinazoline-2,4-dione are refluxed for 5 hours in 200 cc acetic anhydride. Excess acetic anhydride is then distilled off under reduced pressure. The resulting residue is crystallized from benzene. M.p.=210° C.

reactant | 3-N-acetylamino(1H,3H)quinazoline-2,4-dione | 4 g | C(C)(=O)NN1C(NC2=CC=CC=C2C1=O)=O | C10H9N3O3
reactant | acetic anhydride | 200 cc | C(C)(=O)OC(C)=O | C4H6O3
product | 3-diacetylamino(1H,3H)quinazoline-2,4-dione | C(C)(=O)N(N1C(NC2=CC=CC=C2C1=O)=O)C(C)=O | C12H11N3O4
